US07781451B2
A solution of the title D compound, 3-cyclopentyl-2-(4-ethoxymethylsulfonyl-phenyl)-propionic acid (1 g, 0.0029 mol), HOBt (596 mg, 0.0044 mol), EDCl hydrochloride (846 mg, 0.0044 mol) and 583 mg (0.0032 mol) of the title E compound, 5-methoxy-thiazolo[5,4-b]pyridin-2-ylamine in DCM is treated with DIEA (2 mL, 0.011 mol). The reaction is stirred at 25° C. for 24 h. The reaction mixture is treated with saturated aqueous sodium bicarbonate solution and washed with water. The resulting organic layer is then washed with 1 N aqueous hydrochloric acid solution followed by water and brine. The organic layer is dried over sodium sulfate, filtered and evaporated under vacuum. The crude product is purified by column chromatography over Silica gel (60-120 mesh) using 80/20—hexane/ethyl acetate to give 3-cylcopentyl-2-(4-ethoxymethylsulfonyl-phenyl)-N-(5-methoxythiazolo[5,4-b]pyridin-2yl)-propionamide as a white solid: MS e/z (ES) 502.13 (M−1−, 100%); m.p. 158-160° C.; 1H NMR δ 12.7 (s, 1H), 8.02 (d, J=8.4, 1H), 7.88 (d, J=7.2, 2H), 7.69 (d, J=7.6, 2H), 6.91 (d, J=8.8, 1H), 4.81 (s, 2H), 4.10 (m, 1H), 3.90 (s, 3H), 3.73 (m, 2H), 2.14-2.17 (m, 1H), 1.83-1.85 (m, 1H), 1.60-1.73 (m, 2H), 1.50-1.59 (m, 3H), 1.40-1.52 (m, 2H), 1.10-1.15 (m, 2H), 1.02-1.12 (m, 3H).

reactant | 3-cyclopentyl-2-(4-ethoxymethylsulfonyl-phenyl)-propionic acid | 0.0029 mol, 1 g | C1(CCCC1)CC(C(=O)O)C1=CC=C(C=C1)S(=O)(=O)COCC | C17H24O5S
reactant | HOBt | 0.0044 mol, 596 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCl hydrochloride | 0.0044 mol, 846 mg | CCN=C=NCCCN(C)C.Cl.Cl
reactant | 5-methoxy-thiazolo[5,4-b]pyridin-2-ylamine | COC1=CC=C2C(=N1)SC(=N2)N | C7H7N3OS
reactant | DIEA | 0.011 mol, 2 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 3-cylcopentyl-2-(4-ethoxymethylsulfonyl-phenyl)-N-(5-methoxythiazolo[5,4-b]pyridin-2yl)-propionamide | C1(CCCC1)CC(C(=O)NC=1SC2=NC(=CC=C2N1)OC)C1=CC=C(C=C1)S(=O)(=O)COCC | C24H29N3O5S2
